US08461170B2
tert-Butyl 1-(3-methoxy-4-nitrophenyl)piperidin-4-yl(methyl)carbamate
Starting materials: 4-fluoro-2-methoxy-1-nitrobenzene and tert-butyl methyl(piperidin-4-yl)carbamate. m/z 366.

reactant | 4-fluoro-2-methoxy-1-nitrobenzene | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | tert-butyl methyl(piperidin-4-yl)carbamate | CN(C(OC(C)(C)C)=O)C1CCNCC1 | C11H22N2O2
product | tert-Butyl 1-(3-methoxy-4-nitrophenyl)piperidin-4-yl(methyl)carbamate | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)N(C(OC(C)(C)C)=O)C | C18H27N3O5
